### PR TITLE
[Merged by Bors] - feat: continuity of parametric integrals with weaker assumptions

### PR DESCRIPTION
**Pull request by sgouezel**
The current version of continuity of parametric integrals assume a first countable topology, to apply the dominated convergence theorem. When one deals with continuous compactly supported functions, this is not necessary, and a direct elementary approach makes it possible to remove the first countable assumption.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Convolution.lean [hunk 1]
```diff
@@ -590,136 +593,73 @@ protected theorem HasCompactSupport.convolution [T2Space G] (hcf : HasCompactSup
...
+    push_neg at H
+    rcases H with ⟨p, hp, x, hx⟩
+    have A : support (g p) ⊆ k := support_subset_iff'.2 (fun y hy ↦ hgs p y hp hy)
+    have B : Continuous (g p) := by
+      refine hg.comp_continuous (continuous_const.prod_mk continuous_id') fun x => ?_
+      simpa only [prod_mk_mem_set_prod_eq, mem_univ, and_true] using hp
+    rcases eq_zero_or_locallyCompactSpace_of_support_subset_isCompact_of_addGroup hk A B with H|H
+    · simp [H] at hx
+    · exact H
+  /- Since `G` is locally compact, one may thicken a little bit `k` into a larger compact set
```
Comment (hrmacbeth) [inline Mathlib/Analysis/Convolution.lean:622]:
```suggestion
  /- Since `G` is locally compact, one may thicken `k` a little bit into a larger compact set
```

File: Mathlib/MeasureTheory/Integral/SetIntegral.lean [hunk 2]
```diff
@@ -1431,3 +1431,92 @@ theorem Integrable.simpleFunc_mul' (hm : m ≤ m0) (g : @SimpleFunc β m ℝ) (h
...
+      (hg.norm.const_mul _).mul_const _
+    apply Integrable.mono' this ?_ ?_
+    · borelize G
+      apply L.aestronglyMeasurable_comp₂ hg.aestronglyMeasurable
+      apply StronglyMeasurable.aestronglyMeasurable
+      apply Continuous.stronglyMeasurable_of_support_subset_isCompact (A p hp) hk
+      apply support_subset_iff'.2 (fun x hx ↦ hfs p x hp hx)
+    · apply eventually_of_forall (fun x ↦ (le_op_norm₂ L (g x) (f p x)).trans ?_)
+      specialize hC x
+      gcongr
```
Comment (hrmacbeth) [inline Mathlib/MeasureTheory/Integral/SetIntegral.lean:1484]:
```suggestion
      gcongr
      apply hC
```
Take or leave this as you prefer, just mentioning it in case you hadn't noticed the nonterminal version of the tactic.

**Review by hrmacbeth — COMMENTED** [review]
Nice!

bors d+

**Comment by sgouezel** [comment]
bors r+
Thanks for the review!
